US06248765B1
5-(3-(1H-Imidazol-4-yl)propyloxy)-1-indanone
5 mmol of 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol and 6 mmol of 5-hydroxy-1-indanone are treated as described in Example 56.

reactant | 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | 5-hydroxy-1-indanone | 6 mmol | OC=1C=C2CCC(C2=CC1)=O | C9H8O2
product | 5-(3-(1H-Imidazol-4-yl)propyloxy)-1-indanone | N1C=NC(=C1)CCCOC=1C=C2CCC(C2=CC1)=O | C15H16N2O2
